US05028614
In vitro studies. Intestinal glucohydrolases were isolated from rat intestine. Male 150- to 250-g rats were fasted overnight and sacrificed by CO2 anesthesia. The entire small intestine was removed, flushed with 50 to 100 ml of cold saline and placed on an ice-cold glass plate. The mucosal layer was removed and homogenized in 5 times its volume of 0.5 M NaCl, 0.5 M KCl and 5 mM EDTA, pH 7.0. This homogenate was centrifuged at 20,000× g for 30 min and the pellet washed by suspension and recentrifugation three times in fresh salt solution. The resulting pellet was finally homogenized in 5 times its volume of 0.9% NaCl and centrifuged at 200× g for 10 min. The incubation mixtures contained 10 μl of this enzyme preparation plus 3.3 μmole of sucrose and test compound in a final volume of 100 μl of 0.1 M sodium maleate buffer, pH 5.9. All determinations were performed in duplicate or triplicate. One set of determinations was heat inactivated at 90° C. for 2 min immediately after adding the enzyme. The others were incubated for 30 min at 37° C. in a water bath and then heat inactivated. Glucose concentrations were determined by glucose dehydrogenase (Seragen Diagnostics, Indianapolis, Ind.). Glucose produced at each concentration of test compound was compared with that produced with no drug present.

reactant | CO2 | C(=O)=O | CO2
reactant | sucrose | 3.3 μmole | C([C@@H]1[C@H]([C@@H]([C@H]([C@H](O1)O[C@]2([C@H]([C@@H]([C@H](O2)CO)O)O)CO)O)O)O)O | C12H22O11
solvent | sodium maleate | 0.1 M, 100 μl | C(\C=C/C(=O)[O-])(=O)[O-].[Na+].[Na+]
product | Glucose | O=C[C@H](O)[C@@H](O)[C@H](O)[C@H](O)CO | C6H12O6
